US04920120
1-Cyclopropyl-6,8-difluoro-1,4-dihydro-5-methyl-7-[3-methyl-1-piperazinyl]-4-oxo-3-quinolinecarboxylic acid
A suspension of 0.80 g (2.69 mmol) of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-5-methyl-4-oxo-3-quinolinecarboxylic acid, 1.08 g (10.8 mmol) of 2-methylpiperazine, and 20 ml of acetonitrile was refluxed for three hours, then cooled in an ice bath. The precipitate was filtered, washed with water and acetonitrile, and dried to give 0.76 g of the title compound, mp 187°-188° C.

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-5-methyl-4-oxo-3-quinolinecarboxylic acid | 2.69 mmol, 0.80 g | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)C)=O)C(=O)O | C14H10F3NO3
reactant | 2-methylpiperazine | 10.8 mmol, 1.08 g | CC1NCCNC1 | C5H12N2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1-Cyclopropyl-6,8-difluoro-1,4-dihydro-5-methyl-7-[3-methyl-1-piperazinyl]-4-oxo-3-quinolinecarboxylic acid | 0.76 g | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)N1CC(NCC1)C)F)C)=O)C(=O)O | C19H21F2N3O3
